US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-6-ethynyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
A flask charged with a stir bar, trifluoromethanesulfonic acid cis-1-(1-trifluoromethane-sulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester (mixture of isomers regarding sulfonyl group attachment to N-1 or N-3 of the benzimidazole, 0.20 g) and N,N-dimethylformamide (2 mL) is sparged with argon for 5 min. Copper(I) iodide (13 mg), Pd(PPh3)2Cl2 (25 mg), triethylamine (0.31 mL), and trimethylsilylacetylene (0.14 mL) are added in the given order, the vessel is sealed, and the resulting mixture is heated to 60° C. After stirring the mixture at 60° C. overnight, it is cooled to room temperature and aqueous K2CO3 solution is added. The resulting mixture is extracted with ethyl acetate, the combined extract is dried (Na2SO4), and the solvent is evaporated. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0→9:1) to afford the trimethylsilylated title compound which is taken up in methanol (3 mL) and treated with saturated aqueous K2CO3 solution at room temperature for 2 h. The mixture is then concentrated, water is added to the residue, and the resulting mixture is extracted with ethyl acetate. The combined extract is dried (Na2SO4) and concentrated. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0→9:1) to afford the title compound. Yield: 0.03 g (26% of theory); LC (method 1): tR=2.65 min; Mass spectrum (ESI+): m/z=342 [M+H]+.

reactant | trifluoromethanesulfonic acid cis-1-(1-trifluoromethane-sulfonyl-1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | FC(S(=O)(=O)N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)OS(=O)(=O)C(F)(F)F)(F)F | C22H17F6N3O6S2
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (1H-Benzoimidazol-5-yl)-(cis-6-ethynyl-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)C#C | C22H19N3O
